US08293897B2
N-(5-(7-(3-(1-hydroxycyclopropyl)propoxy)quinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide
The title compound was prepared according to the procedure described in Example 9 by using N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-N-phenyl-cyclopropane-1,1-dicarboxamide (300 mg, 0.682 mmol), 3-(1-hydroxycyclopropyl)-propyl methanesulfonate (155 mg, 0.80 mmol), and Cs2CO3 (668 mg, 2.05 mmol) in 3 mL of DMA. The residue was purified by a silical gel column chromatography (3:1 (v/v) EtOAc/n-hexane) to give the title compound as a white solid (238.5 mg, 65%).

reactant | N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-N-phenyl-cyclopropane-1,1-dicarboxamide | 0.682 mmol, 300 mg | OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)N(C(=O)C1(CC1)C(=O)N)C1=CC=CC=C1 | C25H20N4O4
reactant | 3-(1-hydroxycyclopropyl)-propyl methanesulfonate | 0.80 mmol, 155 mg | CS(=O)(=O)OCCCC1(CC1)O | C7H14O4S
reactant | Cs2CO3 | 2.05 mmol, 668 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | N-(5-(7-(3-(1-hydroxycyclopropyl)propoxy)quinolin-4-yloxy)pyridin-2-yl)-N-phenylcyclopropane-1,1-dicarboxamide | 238.5 mg, 65% | OC1(CC1)CCCOC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)N(C(=O)C1(CC1)C(=O)N)C1=CC=CC=C1 | C31H30N4O5
